US06458780B1
A 1 M ethylmagnesium bromide/THF solution (10 ml) was added to a solution of 2.50 g of 7-iodoimidazo[5,1-b]thiazole in 10 ml of dry THF in an argon atmosphere at −50° C. The mixture was stirred at the same temperature for one hr. Trifluoroacetic anhydride (1.53 ml) was added thereto, followed by stirring at the same temperature for 10 min. A saturated aqueous ammonium chloride solution was added to the reaction mixture. Ethyl acetate was then added, followed by washing with a dilute aqueous sodium thiosulfate solution and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 0.64 g of 7-trifluoroacetylimidazo[5,1-b]thiazole.

reactant | ethylmagnesium bromide THF | 1 M, 10 ml | C(C)[Mg]Br.C1CCOC1
reactant | 7-iodoimidazo[5,1-b]thiazole | 2.50 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | Trifluoroacetic anhydride | 1.53 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-trifluoroacetylimidazo[5,1-b]thiazole | 0.64 g | FC(C(=O)C=1N=CN2C1SC=C2)(F)F | C7H3F3N2OS
